US07608626B2
2-(2-phenylindolizin-1-yl)ethylamine
2-Pyridinepropaneamide (8.0 g, 53 mmol) was dissolved in warm acetone (500 mL). 2-Bromoacetophenone (12.0 g, 60 mmol) was added and the reaction mixture was heated under reflux overnight. After standing at room temperature for 2 days, the solvent was decanted from the tan precipitate, which was dissolved in ethanol and heated under reflux for 6 h. After standing overnight at ambient temperature, the ethanol was removed under reduced pressure to give a residue which was recrystallized from heptane (500 mL) to give 2-(2-phenyl-indolizin-1-yl)acetamide. 2-(2-Phenylindolizin-1-yl)acetamide (450 mg, 1.8 mmol) was suspended in ethyl ether. To the suspension was added lithium aluminum hydride (360 mg) and the reaction mixture was heated under reflux overnight under a nitrogen atmosphere. After cooling to room temperature, an aqueous solution of Rochelle salt was cautiously added with stirring until a solution was observed. The phases were separated and the aqueous phase was extracted 3 times with ether. The combined organic layers were extracted with 0.1 N HCl, and the aqueous layer was made basic with 2.5 N NaOH. The aqueous phase was extracted with methylene chloride three times and the organic phase was evaporated under reduced pressure to give crude product. The product was purified by chromatography on silica gel eluting with 5-11% methanol in methylene chloride containing 1% ammonium hydroxide. A 53% yield of the title compound was obtained, mp 212-214° C.

reactant | 2-(2-Phenylindolizin-1-yl)acetamide | 1.8 mmol, 450 mg | C1(=CC=CC=C1)C=1C(=C2C=CC=CN2C1)CC(=O)N | C16H14N2O
reactant | lithium aluminum hydride | 360 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Rochelle salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | ethyl ether | C(C)OCC | C4H10O
product | 2-(2-phenylindolizin-1-yl)ethylamine | 53% yield | C1(=CC=CC=C1)C=1C(=C2C=CC=CN2C1)CCN | C16H16N2
